US07592358B2
IP 5c. (3S,4R)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol
43.80 g of AD-Mix-Beta was placed in 3000 mL of tert-butanol/water (1:1) and stirred for 20 minutes at RT. The mixture was cooled to 0° C., 2.97 g (31.25 mmol) of methanesulfonamide and 7.54 g (31.25 mmol) of 1-benzyl-4-trifluoromethyl-1,2,3,6-tetrahydropyridine were added, the cooling bath was removed, and the mixture was stirred for 8 days at RT. Another 22 g of AD-Mix-Beta and 1.5 g of methanesulfonamide were added and the mixture was again stirred for 7 days at RT. 11.2 g of sodium sulfite was added and the mixture was stirred for 1 hour. 200 mL of semisaturated aqueous sodium bicarbonate solution was added and the aqueous phase was exhaustively extracted with DCM. The combined organic phases were dried over sodium sulfate and evaporated down in vacuo. The crude product was purified by MPLC-MS (Grom-Sil 120 ODS 4, 10 μm, gradient 0.15% formic acid in water/acetonitrile 90:10→10:90 in 10 minutes). The eluates were combined, evaporated down in vacuo, and neutralized with 100 mL of semisaturated aqueous sodium bicarbonate solution. The aqueous phase was extracted with EtOAc, and the combined organic phases were dried over sodium sulfate and evaporated down in vacuo. Yield: 1.51 g (17% of theoretical); C13H16F3NO2 (M=275.267); calc.: molpeak (M+H)+: 276; found: molpeak (M+H)+: 276; Rf value: 0.40 (silica gel, cyc/EtOAc 2:1).

reactant | AD-Mix-Beta | 43.80 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 31.25 mmol, 2.97 g | CS(=O)(=O)N | CH5NO2S
reactant | 1-benzyl-4-trifluoromethyl-1,2,3,6-tetrahydropyridine | 31.25 mmol, 7.54 g | C(C1=CC=CC=C1)N1CCC(=CC1)C(F)(F)F | C13H14F3N
reactant | tert-butanol water | 3000 mL | C(C)(C)(C)O.O
product | (3S,4R)-1-benzyl-4-trifluoromethylpiperidin-3,4-diol | C(C1=CC=CC=C1)N1C[C@@H]([C@@](CC1)(O)C(F)(F)F)O | C13H16F3NO2
